US03966946
A mixture of acetoacetic acid 2-benzyloxyethyl ester (30 g), o-trifluoromethyl benzaldehyde (11.2 g) and concentrated ammonia (8.0 ml of density 0.88) in ethanol (100 ml) was stirred under reflux for 24 hours and then poured into ice and water. The yellow oil which precipitated was separated, and solidified on addition of ethanol. Recrystallisation from ethanol gave 1,4-dihydro-2,6-dimethyl-4-(2-trifluoromethylphenyl)pyridine 3,5-dicarboxylic acid bis-(2-benzyloxyethyl)ester (10.4 g), as white crystals m.p. 141°-142°C.

reactant | acetoacetic acid 2-benzyloxyethyl ester | 30 g | C(C1=CC=CC=C1)OCCOC(CC(=O)C)=O | C13H16O4
reactant | o-trifluoromethyl benzaldehyde | 11.2 g | FC(C1=C(C=O)C=CC=C1)(F)F | C8H5F3O
reactant | ammonia | 8.0 ml | N | H3N
reactant | water | O | H2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 1,4-dihydro-2,6-dimethyl-4-(2-trifluoromethylphenyl)pyridine 3,5-dicarboxylic acid bis-(2-benzyloxyethyl)ester | 10.4 g | C(C1=CC=CC=C1)OCCOC(=O)C1=C(NC(=C(C1C1=C(C=CC=C1)C(F)(F)F)C(=O)OCCOCC1=CC=CC=C1)C)C | C34H34F3NO6
